US07781478B2
2-[4-(2-Bromoethoxy)phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (258 mg, 0.65 mmol), prepared in example 1BA, step A, is combined with NaN3 (144 mg, 2.2 mmol), and MeOH (3.2 mL). This is heated overnight at 75° C. The reaction mixture is then partitioned between CH2Cl2 and H2O. The organic layer is dried and concentrated. Purification by silica gel chromatography (CH2Cl2) yields 2-[4-(2-azidoethoxy)phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (187 mg, 80%), compound 266 as a white solid.

reactant | 2-[4-(2-Bromoethoxy)phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.65 mmol, 258 mg | BrCCOC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C20H19BrN2O2
reactant | NaN3 | 2.2 mmol, 144 mg | [N-]=[N+]=[N-].[Na+]
solvent | MeOH | 3.2 mL | CO | CH4O
product | 2-[4-(2-azidoethoxy)phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 187 mg, 80% | N(=[N+]=[N-])CCOC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C20H19N5O2
